US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-hexyl-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 24, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.044 g, 0.152 mmol) and 1-bromohexane (0.035 mL, 0.249 mmol) in 2CH3CN/3CHCl3 (3.5 mL) were reacted to give the desired product (0.0306 g, 44.3%). EI-MS m/z 373 (M+) Rt (1.83 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.152 mmol, 0.044 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | 1-bromohexane | 0.249 mmol, 0.035 mL | BrCCCCCC | C6H13Br
product | 4-[cyano(diphenyl)methyl]-1-hexyl-1-azoniabicyclo[2.2.1]heptane bromide | 0.0306 g, 44.3% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CCCCCC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C26H33N2.BrH/c1-2-3-4-11-18-28-19-16-25(22-28,17-20-28)26(21-27,23-12-7-5-8-13-23)24-14-9-6-10-15-24;/h5-10,12-15H,2-4,11,16-20,22H2,1H3;1H/q+1;/p-1
